### PR TITLE
aarch64 infoflow: fix ArchArch_IF.thy for Isabelle2025

### PR DESCRIPTION
**Pull request by wsun-code**
Make ArchArch_IF.thy pass `isabelle build` by fix two occurrences of `bit1.pred` -> `bit0.pred` in `vs_lookup_split_Some` calls within `pt_walk_reads_equiv` (line 331) and `pt_lookup_from_level_reads_respects` (line 356).

### CODE REVIEW

File: proof/infoflow/AARCH64/ArchArch_IF.thy [hunk 1]
```diff
@@ -321,7 +321,7 @@ lemma pt_walk_reads_equiv:
     apply clarsimp
    apply (erule_tac x="pptr_from_pte x2" in meta_allE)
    apply (drule meta_mp)
-    apply (subst (asm) vs_lookup_split_Some[OF order_less_imp_le[OF bit1.pred]])
+    apply (subst (asm) vs_lookup_split_Some[OF order_less_imp_le[OF bit0.pred]])
```
Comment (lsf37) [inline proof/infoflow/AARCH64/ArchArch_IF.thy:324]: Thanks, but neither bit1.pred nor bit0.pred are correct here. @ryybrr is working on the real fix.

Comment (lsf37) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:324]: (The issue is that whether bit0 or bit1 is correct depends on the platform configuration, in particular on how many page table levels the platform supports. The proofs are supposed to be generic in that)

Comment (wsun-code) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:324]: got it! thanks for mentioning the real issue.🫡

Comment (lsf37) [reply proof/infoflow/AARCH64/ArchArch_IF.thy:324]: No worries, thanks for trying to help out.
